US06831080B2
Step B: 1-(3-Morpholin-4-yl-phenyl)propylamine
A mixture of 1-(3-morpholin-4-yl-phenyl)propan-1-one (4.06 g, 18.5 mmol), powdered 3A molecular sieves (4 g), in ammonia (2.0 M solution in methanol) (61.2 mL) was stirred in sealed vessel at 65° C. for 2 hours, at which time sodium cyanoboronhydride (2.33 g, 37 mmol) and glacial acetic acid (8.47 mL) was added and the mixture was stirred at 65° C. for another 2 hours. After cooling down, the reaction mixture was filtered to remove molecular sieves and the filtrate was concentrated under vacuum. Solids was re-dissolved in dichloromethane (100 mL) and washed with saturated sodium bicarbonate solution (15 mL). The aqueous layer was extracted with dichloromethane (2×25 mL) and the combined organic layer was dried over magnesium sulfate, and concentrated under vacuum. The crude pale yellow oil was purified by Biotage flash chromatography with 90:10:10 dichloromethane:methanol:triethylamine to afford the title compound as a pale yellow clear oil (2.56 g).

reactant | 1-(3-morpholin-4-yl-phenyl)propan-1-one | 18.5 mmol, 4.06 g | N1(CCOCC1)C=1C=C(C=CC1)C(CC)=O | C13H17NO2
reactant | sodium | [Na] | Na
reactant | acetic acid | 8.47 mL | C(C)(=O)O | C2H4O2
reactant | ammonia | 2.0 M, 61.2 mL | N | H3N
product | 1-(3-Morpholin-4-yl-phenyl)propylamine | 2.56 g | N1(CCOCC1)C=1C=C(C=CC1)C(CC)N | C13H20N2O
